US08557834B2
N-[(3-{[3,5-Bis(methyloxy)phenyl]methyl}-1-cyclohexyl-6-hydroxy-2,4-dioxo-1,2,3,4-tetrahydro-5-pyrimidinyl)carbonyl]glycine
A mixture of ethyl N-[(1-cyclohexyl-6-hydroxy-2,4-dioxo-1,2,3,4-tetrahydro-5-pyrimidinyl)carbonyl]glycinate (340 mg, 1.0 mmoles), pulv. potassium carbonate (1.5 g, 11 mmoles) and 3,5-dimethoxybenzyl bromide (300 mg, 1.3 mmoles) in dimethylacetamide (5 mL) was vigorously stirred at 100° C. for 3 hours. The mixture was poured into 1 molar hydrochloric acid and extracted with ethyl acetate. The organic solution was washed with 1 molar hydrochloric acid and evaporated. The residue was purified by flash chromatography (10-50% ethyl acetate in hexane), the required fractions evaporated, dissolved in ethanol (5 mL) and 1 molar sodium hydroxide solution (1.0 mL) and 6 molar sodium hydroxide solution (1.0 mL) added. The mixture was stirred overnight, acidified and extracted with ethyl acetate (×2), the combined extracts washed with 1 molar hydrochloric acid, dried and evaporated. Recrystallization from toluene gave the title compound (190 mg, 41%). 1H NMR (400 MHz, DMSO-d6) δ ppm 13.11 (s, 1 H), 10.15 (s, 1 H), 6.40 (s, 3 H), 4.92 (s, 2 H), 4.64 (t, J=11.87 Hz, 1 H), 4.09-4.17 (m, 2 H), 3.70 (s, 6 H), 2.26 (s, 2 H), 1.78 (d, J=12.63 Hz, 2 H), 1.62 (d, J=11.62 Hz, 3 H), 1.28 (q, J=13.05 Hz, 2 H), 1.06-1.17 (m, 1 H).

reactant | ethyl N-[(1-cyclohexyl-6-hydroxy-2,4-dioxo-1,2,3,4-tetrahydro-5-pyrimidinyl)carbonyl]glycinate | 1.0 mmoles, 340 mg | C1(CCCCC1)N1C(NC(C(=C1O)C(=O)NCC(=O)OCC)=O)=O | C15H21N3O6
reactant | potassium carbonate | 11 mmoles, 1.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3,5-dimethoxybenzyl bromide | 1.3 mmoles, 300 mg | COC=1C=C(CBr)C=C(C1)OC | C9H11BrO2
reactant | hydrochloric acid | 1 molar | Cl | ClH
solvent | dimethylacetamide | 5 mL | CC(=O)N(C)C | C4H9NO
product | N-[(3-{[3,5-Bis(methyloxy)phenyl]methyl}-1-cyclohexyl-6-hydroxy-2,4-dioxo-1,2,3,4-tetrahydro-5-pyrimidinyl)carbonyl]glycine | 190 mg, 41% | COC=1C=C(C=C(C1)OC)CN1C(N(C(=C(C1=O)C(=O)NCC(=O)O)O)C1CCCCC1)=O | C22H27N3O8
